US06113918
In the same manner as described in Example 20-(1), 3-amino-1-(t-butyldiphenylsilyloxy)propane (470 mg, 1.5 mmol) was acylated with (R)-3-tetradecanoyloxytetradecanoic acid (680 mg, 1.5 mmol) in the presence of EDC.MeI (595 mg, 2.0 mmol) and then deprotected with TBAF (1.0 M in THF, 2.0 mL, 2.0 mmol) in THF (10 mL) to afford 698 mg (91%) of 3-[(R)-3-tetradecanoyloxytetradecanoylamino]-1-propanol as an off-white solid.

reactant | 3-amino-1-(t-butyldiphenylsilyloxy)propane | 1.5 mmol, 470 mg | NCCCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C19H27NOSi
reactant | (R)-3-tetradecanoyloxytetradecanoic acid | 1.5 mmol, 680 mg | C(CCCCCCCCCCCCC)(=O)O[C@@H](CC(=O)O)CCCCCCCCCCC | C28H54O4
reactant | MeI | 2.0 mmol, 595 mg | CI | CH3I
reactant | TBAF | 2.0 mmol, 1.0 M, 2.0 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EDC
product | 3-[(R)-3-tetradecanoyloxytetradecanoylamino]-1-propanol | 698 mg, 91% | C(CCCCCCCCCCCCC)(=O)O[C@@H](CC(=O)NCCCO)CCCCCCCCCCC | C31H61NO4
